US06500863B1
N-[4-chloro-2-hydroxy-3-[N″-[3-(methylsulfinyl)propyl]aminosulfonyl]phenyl]-N′-(2,3-dichlorophenyl) urea
A solution of N-[4chloro-2-hydroxy-3-[N″-(3-methylthiopropyl)aminosulfonyl]-phenyl]-N′-(2,3-dichlorophenyl) urea (50 mg, 0.10 mmol) and sodium periodate (26 mg, 0.12mmol) in acetonitrile (6 mL) and water (2 mL) was stirred for 3 days at room temperature. The mixture was diluted with ethyl acetate and washed with water to give the crude material. Recrystallization from acetone and hexane gave the desired product (42 mg, 81%). 1H NMR (DMSO-d6): δ 9.32 (s, 1H), 9.27 (s, 1H), 8.59 (s, 1H), 8.29 (d, 1H), 8.07 (m, 1H), 7.33 (m, 2H), 7.13 (d, 1H), 3.00 (m, 2H), 2.75 (m, 1H), 2.65 (m, 1H), 2.47 (s, 3H), 1.79 (m, 2H).

reactant | N-[4chloro-2-hydroxy-3-[N″-(3-methylthiopropyl)aminosulfonyl]-phenyl]-N′-(2,3-dichlorophenyl) urea | 0.10 mmol, 50 mg | ClC1=C(C(=C(C=C1)NC(=O)NC1=C(C(=CC=C1)Cl)Cl)O)S(=O)(=O)NCCCSC | C17H18Cl3N3O4S2
reactant | sodium periodate | 0.12mmol, 26 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-chloro-2-hydroxy-3-[N″-[3-(methylsulfinyl)propyl]aminosulfonyl]phenyl]-N′-(2,3-dichlorophenyl) urea | 42 mg, 81% | ClC1=C(C(=C(C=C1)NC(=O)NC1=C(C(=CC=C1)Cl)Cl)O)S(=O)(=O)NCCCS(=O)C | C17H18Cl3N3O5S2
